US06461600B1
Preparation of amitriptyline/ketamine/carrier mixture.
0.3750 gm ketamine hydrochloride USP and 0.750 gm amitriptyline hydrochloride USP are combined and wetted with 2.0 ml of ethoxy diglycol reagent, and stirred into 75 gm of the base cream prepared as per example 3 and triple milled. The cream-type mixture contains ketamine hydrochloride at 5 mg/ml and amitriptyline hydrochloride at 10 mg/ml.

reactant | ketamine hydrochloride | 0.3750 gm | CNC1(CCCCC1=O)C=2C=CC=CC2Cl.Cl
reactant | amitriptyline hydrochloride | 0.750 gm | CN(C)CCC=C1C=2C=CC=CC2CCC3=C1C=CC=C3.Cl
reactant | ethoxy diglycol | 2.0 ml | CCOCCOCCO | C6H14O3
product | amitriptyline ketamine | CN(C)CCC=C1C=2C=CC=CC2CCC3=C1C=CC=C3.CNC1(CCCCC1=O)C=2C=CC=CC2Cl | InChI=1S/C20H23N.C13H16ClNO/c1-21(2)15-7-12-20-18-10-5-3-8-16(18)13-14-17-9-4-6-11-19(17)20;1-15-13(9-5-4-8-12(13)16)10-6-2-3-7-11(10)14/h3-6,8-12H,7,13-15H2,1-2H3;2-3,6-7,15H,4-5,8-9H2,1H3
